US04978704
(CH3O)3Si(CH2)3NH(CH2)2NH2 ;
(CH3OCH2CH2O)3Si(CH2)2NH2 ; (C2H5O)3Si(CH2)3NH2 ; (CH3OCH2CH2O)3Si(CH2)3NH2 ; (C2H5O)3Si(CH2)3O(CH2)3NH2 ; (C2H5O)2C6H5Si(CH2)3O(CH2)3NH2 ; (C2H5O)3SiCH2O(CH2)2NH2 ; (C2H5O)3Si(CH2)3O(CH2)2NH2 ; (C2H5O)2CH3Si(CH2)3NH2.

reactant | (CH3OCH2CH2O)3Si(CH2)2NH2 | [Si](OCCOC)(OCCOC)(OCCOC)CCN | C11H27NO6Si
reactant | (C2H5O)3Si(CH2)3NH2 | [Si](OCC)(OCC)(OCC)CCCN | C9H23NO3Si
reactant | (CH3OCH2CH2O)3Si(CH2)3NH2 | [Si](OCCOC)(OCCOC)(OCCOC)CCCN | C12H29NO6Si
reactant | (C2H5O)3Si(CH2)3O(CH2)3NH2 | [Si](OCC)(OCC)(OCC)CCCOCCCN | C12H29NO4Si
reactant | (C2H5O)3SiCH2O(CH2)2NH2 | [Si](OCC)(OCC)(OCC)COCCN | C9H23NO4Si
reactant | (C2H5O)3Si(CH2)3O(CH2)2NH2 | [Si](OCC)(OCC)(OCC)CCCOCCN | C11H27NO4Si
product | (CH3O)3Si(CH2)3NH(CH2)2NH2 | [Si](OC)(OC)(OC)CCCNCCN | C8H22N2O3Si
